### PR TITLE
[Merged by Bors] - feat(Nat/Prime): Primality of some numbers of form `a^n±1`

### PR DESCRIPTION
**Pull request by rwst**
New file `Nat/Prime/MersenneFermat.lean` contains the theorems: 

- Prime `a ^ n + 1` implies `n` is a power of two.
- `Fₙ = 2^(2^n)+1` is prime only if `3^(2^(2^n-1)) = -1 mod Fₙ` (Pépin's test).
- Prime factors of `a ^ (2 ^ n) + 1` are of form `k * 2 ^ (n + 1) + 1`.
- Prime factors of `Fₙ = 2 ^ (2 ^ n) + 1`, `1 < n`, are of form `k * 2 ^ (n + 2) + 1`.
- Prime factors of `Fₙ = 2 ^ (2 ^ n) + 1` are either 3, 5, or of form `k * 2 ^ (n + 2) + 1`.
- Prime `a ^ n - 1` implies `a = 2` and prime `n`.

Needs several imports from other modules so it was not wise to add it to `Prime/Basic`. 

    Co-authored-by: Thomas Browning <tb65536@uw.edu>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by rwst** [comment]
@tb65536 I finally decided to create a new file for this, as I wasn't able to disentangle `Nat.Prime` enough.

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 1]
```diff
@@ -0,0 +1,56 @@
...
+      have h₂ : a ^ 2 ^ k + 1 ≠ (a ^ 2 ^ k) ^ m + 1 := by
+        apply Ne.symm
+        rw [ne_eq, add_left_inj, pow_eq_self_iff (a := a ^ 2 ^ k) (b := m)]
+        · exact hm'
+        · simp only [ne_eq, pow_eq_zero_iff', OfNat.ofNat_ne_zero, false_and,
+            not_false_eq_true, Nat.one_lt_pow_iff, ha]
+      exact ⟨nat_add_one_dvd_pow_add_one (a ^ 2 ^ k) hm, h₁, h₂⟩
+    · simp only [reduceLeDiff]
+      apply_rules [one_le_pow, pos_pow_of_pos, zero_lt_of_lt ha]
+  contradiction
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:44]: Here's a golf:
```suggestion
  replace ha : 1 < a ^ 2 ^ k := one_lt_pow (pow_ne_zero k two_ne_zero) ha
  have h := hm.nat_add_dvd_pow_add_pow (a ^ 2 ^ k) 1
  rw [one_pow, hP.dvd_iff_eq (Nat.lt_add_right 1 ha).ne', add_left_inj, pow_eq_self_iff ha] at h
  rw [h, mul_one]
```

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 2]
```diff
@@ -0,0 +1,56 @@
...
+  intro h
+  specialize h 5
+  norm_num at h
+  have : 4294967297 = 641 * 6700417 := by norm_num
+  rw [this] at h
+  have h' : ¬ Nat.Prime (641 * 6700417) := by
+    apply Nat.not_prime_mul
+    norm_num
+    norm_num
+  exact h' h
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:56]: Here's a golf:
```suggestion
  rw [not_forall]
  use 5
  have : 641 * 6700417 = 2 ^ 2 ^ 5 + 1 := by norm_num
  apply Nat.not_prime_mul' this <;> norm_num
```

Comment (tb65536) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean:56]: Another option worth considering would be to split out
```
theorem not_prime_fermat_five : ¬ Nat.Prime (2 ^ (2 ^ 5) + 1) := by
  have : 641 * 6700417 = 2 ^ 2 ^ 5 + 1 := by norm_num
  apply Nat.not_prime_mul' this <;> norm_num
```

**Comment by erdOne** [comment]
Maybe `Archive`?

**Comment by rwst** [comment]
> Maybe `Archive`?

See https://github.com/leanprover-community/mathlib4/pull/14049#issuecomment-2189447696

File: Mathlib/Data/Nat/Prime/EulerFermat.lean (hunk 2 above)
Comment (rwst) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean]: Done. Crazy golfing!

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 3]
```diff
@@ -0,0 +1,37 @@
...
+
+theorem not_all_pow_pow_add_prime : ¬ ∀ n : ℕ, Nat.Prime (2 ^ (2 ^ n) + 1) := by
+  rw [not_forall]
+  use 5
+  have : 641 * 6700417 = 2 ^ 2 ^ 5 + 1 := by norm_num
+  apply Nat.not_prime_mul' this <;> norm_num
+
+theorem not_prime_fermat_five : ¬ Nat.Prime (2 ^ (2 ^ 5) + 1) := by
+  have : 641 * 6700417 = 2 ^ 2 ^ 5 + 1 := by norm_num
+  apply Nat.not_prime_mul' this <;> norm_num
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:37]: You should swap these, so that `not_prime_fermat_five` can be used to prove `not_all_pow_pow_add_prime`

Comment (rwst) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean]: Done.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 4]
```diff
@@ -0,0 +1,36 @@
...
+
+# Primality of `a ^ n + 1`
+
+Euler proved around 1738 that some Fermat numbers are prime, but not `F₅`.
+-/
+
+open Nat
+
+/-- `a ^ n + 1` is prime only if `n` is a power of two. -/
+theorem pow_of_pow_add_prime (a n : ℕ) (ha : 1 < a) (hn : 1 < n) (hP : Nat.Prime (a ^ n + 1)) :
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:19]:
```suggestion
theorem pow_of_pow_add_prime {a n : ℕ} (ha : 1 < a) (hn : 1 < n) (hP : Prime (a ^ n + 1)) :
```
Or maybe `(a ^ n + 1).Prime`.

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 5]
```diff
@@ -0,0 +1,36 @@
...
+  rw [h, mul_one]
+
+theorem not_prime_fermat_five : ¬ Nat.Prime (2 ^ (2 ^ 5) + 1) := by
+  have : 641 * 6700417 = 2 ^ 2 ^ 5 + 1 := by norm_num
+  apply Nat.not_prime_mul' this <;> norm_num
+
+theorem not_all_pow_pow_add_prime : ¬ ∀ n : ℕ, Nat.Prime (2 ^ (2 ^ n) + 1) := by
+  rw [not_forall]
+  use 5
+  apply not_prime_fermat_five
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:36]: I am not sure we really want these in mathlib: the point of the counterexample is that Euler proved it using quadratic reciprocity: doing it by brute force seems of little interest.

File: Mathlib/Data/Nat/Prime/EulerFermat.lean (hunk 4 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean:19]: Does your suggestion get the right `Prime`?

Comment (riccardobrasca) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean:19]: I don't know indeed, but my guess is that is the same proof works then yes (`(...).Prime` should).

Comment (rwst) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean]: Done. Thanks for all your reviewing work!

File: Mathlib/Data/Nat/Prime/EulerFermat.lean (hunk 5 above)
Comment (rwst) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean:36]: So I should remove them?

Comment (riccardobrasca) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean:36]: I think so.

Comment (rwst) [reply Mathlib/Data/Nat/Prime/EulerFermat.lean]: Done.

**Comment by riccardobrasca** [comment]
Can you please fix the title and the PR description? Also, these numbers are called "Fermat's prime", so I think also the name of the file should be changed.

**Comment by tb65536** [comment]
I've heard them called "Fermat numbers" or "Fermat primes". Also, it could be worth generalizing to `a^n + 1` for `1 < a`.

File: Mathlib/Data/Nat/Prime/EulerFermat.lean [hunk 6]
```diff
@@ -0,0 +1,27 @@
...
+
+# Primality of `a ^ n + 1`
+
+Euler proved around 1738 that some Fermat numbers are prime, but not `F₅`.
+-/
+
+open Nat
+
+/-- `a ^ n + 1` is prime only if `n` is a power of two. -/
+theorem pow_of_pow_add_prime (a n : ℕ) (ha : 1 < a) (hn : 1 < n) (hP : (a ^ n + 1).Prime) :
```
Comment (riccardobrasca) [inline Mathlib/Data/Nat/Prime/EulerFermat.lean:19]:
```suggestion
theorem pow_of_pow_add_prime {a n : ℕ} (ha : 1 < a) (hn : 1 < n) (hP : (a ^ n + 1).Prime) :
```

**Comment by riccardobrasca** [comment]
Do we have the similar result about `a^n - 1` (if it is prime then `a=2` and `p` is prime)?

**Comment by rwst** [comment]
> Do we have the similar result about `a^n - 1` (if it is prime then `a=2` and `n` is prime)?

That's dealt with all the `Zmod` stuff, e.g. Fermat's little theorem. Would be surprised if not in Mathlib (and delighted to put it in).

**Comment by rwst** [comment]
> Can you please fix the title and the PR description? Also, these numbers are called "Fermat's prime", so I think also the name of the file should be changed.

What about the file name `Nat/Prime/PowAdd.lean`?

**Comment by rwst** [comment]
> > Do we have the similar result about `a^n - 1` (if it is prime then `a=2` and `n` is prime)?
> 
> That's dealt with all the `Zmod` stuff, e.g. Fermat's little theorem. Would be surprised if not in Mathlib (and delighted to put it in).

`a^(phi(n))-1` is Euler's theorem:
https://en.wikipedia.org/wiki/Euler%27s_theorem

**Comment by riccardobrasca** [comment]
> > > Do we have the similar result about `a^n - 1` (if it is prime then `a=2` and `n` is prime)?
> > 
> > 
> > That's dealt with all the `Zmod` stuff, e.g. Fermat's little theorem. Would be surprised if not in Mathlib (and delighted to put it in).
> 
> `a^(phi(n))-1` is Euler's theorem: https://en.wikipedia.org/wiki/Euler%27s_theorem

That's not what I am talking about: if `a ^ n - 1` is a prime then `a = 2` and `n` is a prime.

**Comment by rwst** [comment]
The (poly multiplication) proof is shown in https://en.wikipedia.org/wiki/Mersenne_prime
Some things seem to be in https://github.com/leanprover-community/mathlib4/blob/8666bd82efec40b8b3a5abca02dc9b24bbdf2652/Mathlib/NumberTheory/LucasLehmer.lean

That would fit very much here, maybe I can get to it this afternoon.

**Comment by acmepjz** [comment]
> Do we have the similar result about `a^n - 1` (if it is prime then `a=2` and `n` is prime)?

Maybe Mersenne's prime?

File: Mathlib/Data/Nat/Prime/NearlyPower.lean [hunk 7]
```diff
@@ -0,0 +1,83 @@
...
+/-!
+# Primality of `a ^ n + 1`
+-/
+
+open Nat
+
+/-- Prime `a ^ n + 1` implies `n` is a power of two. -/
+theorem pow_of_pow_add_prime {a n : ℕ} (ha : 1 < a) (hn : 1 < n) (hP : (a ^ n + 1).Prime) :
+    ∃ m : ℕ, n = 2 ^ m := by
+  obtain ⟨k, m, hm, rfl⟩ := exists_eq_two_pow_mul_odd (one_pos.trans hn).ne'
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/NearlyPower.lean:18]:
```suggestion
theorem pow_of_pow_add_prime {a n : ℕ} (ha : 1 < a) (hn : n ≠ 0) (hP : (a ^ n + 1).Prime) :
    ∃ m : ℕ, n = 2 ^ m := by
  obtain ⟨k, m, hm, rfl⟩ := exists_eq_two_pow_mul_odd hn
```

File: Mathlib/Data/Nat/Prime/NearlyPower.lean [hunk 8]
```diff
@@ -0,0 +1,83 @@
...
+/-!
+# Primality of `a ^ n - 1`
+-/
+
+/-- Prime `a ^ n - 1` implies `a = 2` and prime `n`. -/
+theorem prime_of_pow_sub_one_prime (a n : ℕ) (ha : 1 < a) (hn : 1 < n) (hP : (a ^ n - 1).Prime) :
+    a = 2 ∧ n.Prime := by
+  by_contra h₀
+  have h₁ : a ≠ 2 ∨ ¬ n.Prime := by
+    exact (Decidable.not_and_iff_or_not (a = 2) (Nat.Prime n)).mp h₀
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/NearlyPower.lean:35]:
```suggestion
  have h₁ : a ≠ 2 ∨ ¬ n.Prime := not_and_or.mp h₀
```

**Review by tb65536 — COMMENTED** [review]
Here's a golf:
```
theorem prime_of_pow_sub_one_prime {a n : ℕ} (hn1 : n ≠ 1) (hP : (a ^ n - 1).Prime) :
    a = 2 ∧ n.Prime := by
  have han1 : 1 < a ^ n := tsub_pos_iff_lt.mp hP.pos
  have hn0 : n ≠ 0 := fun h ↦ (h ▸ han1).ne' rfl
  have ha1 : 1 < a := (Nat.one_lt_pow_iff hn0).mp han1
  have ha0 : 0 < a := one_pos.trans ha1
  have ha2 : a = 2 := by
    contrapose! hn1
    have h := nat_sub_dvd_pow_sub_pow a 1 n
    rw [one_pow, hP.dvd_iff_eq (mt (Nat.sub_eq_iff_eq_add ha1.le).mp hn1), eq_comm] at h
    exact (pow_eq_self_iff ha1).mp (Nat.sub_one_cancel ha0 (pow_pos ha0 n) h).symm
  subst ha2
  refine ⟨rfl, Nat.prime_def_lt''.mpr ⟨(two_le_iff n).mpr ⟨hn0, hn1⟩, fun d hdn ↦ ?_⟩⟩
  have hinj : ∀ x y, 2 ^ x - 1 = 2 ^ y - 1 → x = y :=
    fun x y h ↦ Nat.pow_right_injective le_rfl (sub_one_cancel (pow_pos ha0 x) (pow_pos ha0 y) h)
  have h := nat_sub_dvd_pow_sub_pow (2 ^ d) 1 (n / d)
  rw [one_pow, ← pow_mul, Nat.mul_div_cancel' hdn] at h
  exact (hP.eq_one_or_self_of_dvd (2 ^ d - 1) h).imp (hinj d 1) (hinj d n)
```

**Comment by tb65536** [comment]
Would `MersenneFermat` or `FermatMersenne` be a better name for the title of the file?

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+      omega
+    · norm_num
+  have h1neneg : (1 : ZMod p) ≠ (-1 : ZMod p) := by
+    by_contra h'
+    rcases (neg_eq_self_iff (1 : ZMod p)).mp h'.symm with h | h
+    · absurd h
+      exact one_ne_zero
+    · absurd h
+      exact val_one p ▸ Ne.symm hp'
+  have h₂ : 2 ^ (n + 1) ∣ p - 1 := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:99]: Can you split out `∃ k, p = k * 2 ^ (n + 1) + 1` as a separate lemma without the `1 < n` assumption?

Comment (rwst) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean:98]: Generalized. I made the original private, or do you really want two?

Comment (tb65536) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean:98]: I think it's fine to have two. A stronger version with the `1 < n` assumption and a weaker version without.

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 10]
```diff
@@ -0,0 +1,188 @@
...
+        rw [Nat.sub_add_cancel Nat.one_le_two_pow]
+      · exact dvd_pow_self 2 (Ne.symm (NeZero.ne' (2 ^ n)))
+      · exact Ne.symm (zero_ne_add_one 1)
+    rw [this, h]
+    exact hneg1ne1
+
+/- Prime factors of `Fₙ = 2 ^ (2 ^ n) + 1`, `1 < n`, are of form `k * 2 ^ (n + 2) + 1`. -/
+lemma fermat_primeFactors_one_lt (n p : ℕ) (hn : 1 < n) (hP : p.Prime) (hp' : p ≠ 2)
+    (hpdvd : p ∣ 2 ^ (2 ^ n) + 1) :
+    ∃ k, p = k * 2 ^ (n + 2) + 1 := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:72]: Does this generalize to `p ∣ a ^ (2 ^ n) + 1 → ∃ k, p = k * 2 ^ (n + 1) + 1`? I think you can deduce the stronger `a = 2` version from this by applying the general result once to get `p % 8 = 1`, writing `(2 : ZMod p) = m ^ 2`, and reapplying the general result to `p ∣ m ^ (2 ^ (n + 1)) + 1`.

Comment (rwst) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean:72]: Maybe. However, my real job strangles me positively at the moment. I'd prefer that this file be merged first, before I start going into this.

Comment (tb65536) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean:72]: It's probably worth including it in this PR since it shortens the proof (since you only need to make the `orderOf` argument once rather than twice) and generalizes the result.
```
lemma lem1 {a n p : ℕ} (hp : p.Prime) (hp2 : p ≠ 2) (hpdvd : p ∣ a ^ (2 ^ n) + 1) :
    ∃ k, p = k * 2 ^ (n + 1) + 1 := by
  have : Fact (2 < p) := Fact.mk (lt_of_le_of_ne hp.two_le hp2.symm)
  have : Fact p.Prime := Fact.mk hp
  have ha1 : (a : ZMod p) ^ (2 ^ n) = -1 := by
    rw [eq_neg_iff_add_eq_zero]
    exact_mod_cast (natCast_zmod_eq_zero_iff_dvd (a ^ (2 ^ n) + 1) p).mpr hpdvd
  have ha0 : (a : ZMod p) ≠ 0 := by
    intro h
    rw [h, zero_pow (pow_ne_zero n two_ne_zero), zero_eq_neg] at ha1
    exact one_ne_zero ha1
  have ha : orderOf (a : ZMod p) = 2 ^ (n + 1) := by
    apply orderOf_eq_prime_pow
    · rw [ha1]
      exact ZMod.neg_one_ne_one
    · rw [pow_succ, pow_mul, ha1, neg_one_sq]
  simpa [ha, dvd_def, Nat.sub_eq_iff_eq_add hp.one_le, mul_comm] using orderOf_dvd_card_sub_one ha0

lemma lem2 {n p : ℕ} (hn : 1 < n) (hp : p.Prime) (hpdvd : p ∣ 2 ^ (2 ^ n) + 1) :
    ∃ k, p = k * 2 ^ (n + 2) + 1 := by
  have : Fact p.Prime := Fact.mk hp
  have hp2 : p ≠ 2 := by
    exact ((even_pow.mpr ⟨even_two, pow_ne_zero n two_ne_zero⟩).add_one).ne_two_of_dvd_nat hpdvd
  have hp8 : p % 8 = 1 := by
    obtain ⟨k, rfl⟩ := lem1 hp hp2 hpdvd
    obtain ⟨n, rfl⟩ := Nat.exists_eq_add_of_le' hn
    rw [add_assoc, pow_add, ← mul_assoc, ← mod_add_mod, mul_mod]
    norm_num
  obtain ⟨a, ha⟩ := (exists_sq_eq_two_iff hp2).mpr (Or.inl hp8)
  suffices h : p ∣ a.val ^ (2 ^ (n + 1)) + 1 by
    exact lem1 hp hp2 h
  rw [← natCast_zmod_eq_zero_iff_dvd, Nat.cast_add, Nat.cast_one, Nat.cast_pow] at hpdvd ⊢
  rwa [ZMod.natCast_val, ZMod.cast_id, pow_succ', pow_mul, sq, ← ha]
```

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 11]
```diff
@@ -0,0 +1,188 @@
...
+    rw [(Nat.prime_dvd_prime_iff_eq H' prime_two).mp ((Nat.Prime.dvd_of_dvd_pow H') H'')]
+    have : 2 ^ (2 ^ n) / 2 = 2 ^ (2 ^ n - 1) := by
+      rw [← Nat.mul_right_inj (a := 2), ← Nat.pow_add' 2 (2 ^ n - 1) 1,
+        mul_comm, Nat.div_mul_cancel]
+      · norm_num
+        rw [Nat.sub_add_cancel Nat.one_le_two_pow]
+      · exact dvd_pow_self 2 (Ne.symm (NeZero.ne' (2 ^ n)))
+      · exact Ne.symm (zero_ne_add_one 1)
+    rw [this, h]
+    exact hneg1ne1
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:67]:
```suggestion
  have := Fact.mk (succ_lt_succ (Nat.one_lt_pow (pow_ne_zero n two_ne_zero) one_lt_two))
  have key : 2 ^ n = 2 ^ n - 1 + 1 := (Nat.sub_add_cancel Nat.one_le_two_pow).symm
  apply lucas_primality (p := 2 ^ (2 ^ n) + 1) (a := 3)
  · rw [Nat.add_sub_cancel, key, pow_succ, pow_mul, ← pow_succ, ← key, h, neg_one_sq]
  · intro p hp1 hp2
    rw [Nat.add_sub_cancel, (Nat.prime_dvd_prime_iff_eq hp1 prime_two).mp (hp1.dvd_of_dvd_pow hp2),
        key, pow_succ, Nat.mul_div_cancel _ two_pos, ← pow_succ, ← key, h]
    exact ZMod.neg_one_ne_one
```

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean (hunk 10 above)
Comment (rwst) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean]: Great, thanks!

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
...
+  have := Fact.mk (succ_lt_succ (Nat.one_lt_pow (pow_ne_zero n two_ne_zero) one_lt_two))
+  have key : 2 ^ n = 2 ^ n - 1 + 1 := (Nat.sub_add_cancel Nat.one_le_two_pow).symm
+  apply lucas_primality (p := 2 ^ (2 ^ n) + 1) (a := 3)
+  · rw [Nat.add_sub_cancel, key, pow_succ, pow_mul, ← pow_succ, ← key, h, neg_one_sq]
+  · intro p hp1 hp2
+    rw [Nat.add_sub_cancel, (Nat.prime_dvd_prime_iff_eq hp1 prime_two).mp (hp1.dvd_of_dvd_pow hp2),
+        key, pow_succ, Nat.mul_div_cancel _ two_pos, ← pow_succ, ← key, h]
+    exact ZMod.neg_one_ne_one
+
+/-- Prime factors of `a ^ (2 ^ n) + 1`, `1 < n`, are of form `k * 2 ^ (n + 1) + 1`. -/
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:42]:
```suggestion
/-- Prime factors of `a ^ (2 ^ n) + 1` are of form `k * 2 ^ (n + 1) + 1`. -/
```

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 13]
```diff
@@ -0,0 +1,117 @@
...
+    ∃ m : ℕ, n = 2 ^ m := by
+  obtain ⟨k, m, hm, rfl⟩ := exists_eq_two_pow_mul_odd hn
+  rw [pow_mul] at hP
+  use k
+  replace ha : 1 < a ^ 2 ^ k := one_lt_pow (pow_ne_zero k two_ne_zero) ha
+  let h := hm.nat_add_dvd_pow_add_pow (a ^ 2 ^ k) 1
+  rw [one_pow, hP.dvd_iff_eq (Nat.lt_add_right 1 ha).ne', add_left_inj, pow_eq_self_iff ha] at h
+  rw [h, mul_one]
+
+/-- `Fₙ = 2^(2^n)+1` is prime only if `3^(2^(2^n-1)) = -1 mod Fₙ` (Pépin's test). -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:30]:
```suggestion
/-- `Fₙ = 2^(2^n)+1` is prime only if `3^(2^(2^n-1)) = -1 mod Fₙ` (**Pépin's test**). -/
```

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 14]
```diff
@@ -0,0 +1,117 @@
...
+import Mathlib.NumberTheory.LegendreSymbol.QuadraticReciprocity
+import Mathlib.NumberTheory.LucasPrimality
+
+/-!
+# Lemmas about Fermat numbers
+-/
+
+open ZMod Nat
+
+/-- Prime `a ^ n + 1` implies `n` is a power of two (Fermat primes). -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:19]:
```suggestion
/-- Prime `a ^ n + 1` implies `n` is a power of two (**Fermat primes**). -/
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Data/Nat/Prime/MersenneFermat.lean [hunk 15]
```diff
@@ -0,0 +1,117 @@
...
+import Mathlib.NumberTheory.LucasPrimality
+
+/-!
+# Lemmas about Fermat numbers
+-/
+
+open ZMod Nat
+
+/-- Prime `a ^ n + 1` implies `n` is a power of two (**Fermat primes**). -/
+theorem pow_of_pow_add_prime {a n : ℕ} (ha : 1 < a) (hn : n ≠ 0) (hP : (a ^ n + 1).Prime) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Prime/MersenneFermat.lean:20]: Probably these should all go into the `Nat` namespace; sorry for not catching that earlier.

Comment (mo271) [reply Mathlib/Data/Nat/Prime/MersenneFermat.lean]: Put them in a Nat namespace and moved them to the new `Fermat.lean` after talking with @rwst

**Comment by mo271** [comment]
This was ready for review again since October 1st, I just forgot to remove the awaiting-author label...
@Ruben-VandeVelde

**Comment by riccardobrasca** [comment]
LGTM, thanks!

bors d+
